US07524813B2
At 0° C., 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.04 g, 5.44 mmol) was added to a solution of palmic acid (1.40 g, 5.44 mmol) and 3,4-dihydro-3-hydroxy-4-oxo-1,2,3-benzotriazole (0.89 g, 5.44 mmol) in N,N-dimethylformamide (20 ml) and dichloromethane (20 ml). The reaction mixture was stirred at 0° C. for 20 min. A solution of the trifluoroacetate salt of 2-(2-(piperidin-4-yl)ethoxy)isoindole-1,3-dione (2.11 g, 5.44 mmol) in N,N-dimethylformamide (5 ml) and ethyldiisopropylamine (6.19 ml, 38.1 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (150 ml) and was washed with a 10% aqueous solution of sodium hydrogensulphate (150 ml). The aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with a mixture of water (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml) and dried over magnesium sulphate. The crude product was purified by flash chromatography on silica (40 g), using ethyl acetate/heptane 1:1 as eluent to give 1.52 g of 2-[2-(1-(hexadecanoyl)piperidin-4-yl)ethoxy]isoindole-1,3-dione.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.44 mmol, 1.04 g | Cl.CN(CCCN=C=NCC)C
reactant | palmic acid | 5.44 mmol, 1.40 g | CCCCCCCCCCCCCCCC(=O)O | C16H32O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 2-(2-(piperidin-4-yl)ethoxy)isoindole-1,3-dione | 5.44 mmol, 2.11 g | N1CCC(CC1)CCON1C(C2=CC=CC=C2C1=O)=O | C15H18N2O3
reactant | ethyldiisopropylamine | 38.1 mmol, 6.19 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(1-(hexadecanoyl)piperidin-4-yl)ethoxy]isoindole-1,3-dione | 1.52 g | C(CCCCCCCCCCCCCCC)(=O)N1CCC(CC1)CCON1C(C2=CC=CC=C2C1=O)=O | C31H48N2O4
